US05939360
30 ml of benzene and then 3.85 g (0.012 mol) of 2-oxopropylidenetri phenylphospholane were added to 3.1 g (0.012 mol) of methyl 3-formyl-4-methanesulfonyl-2-methylbenzoate, followed by stirring for 1 hour under heating reflux. After the solution was allowed to cool, insoluble substance was removed by filtration, and the solvent was concentrated under reduced pressure to obtain methyl 4-methanesulfonyl-3-(3-oxo-1-butenyl)-2-methylbenzoate. Methyl 4-methanesulfonyl-3-(3-oxo-1-butenyl)-2-methylbenzoate thus obtained was dissolved in a solvent of 10 ml of ethanol and 10 ml of pyridine, and 1.1 g (0.016 mol) of hydroxyamine hydrochloride was added, followed by stirring for 1 hour under heating reflux. The resulting reaction mixture was poured into ice water, and extraction was carried out with ethyl acetate. Afterward, the resulting ethyl acetate layer was washed with 1N hydrochloric acid and subsequently with saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. Next, the solvent was distilled off under reduced pressure. The thus obtained methyl 4-methanesulfonyl-3-(3-hydroxyimino-1-butenyl)-2-methylbenzoate was dissolved in 15 ml of THF, and 15 ml of water containing 1.4 g (0.017 mol) of sodium hydrogencarbonate was added to the solution. Next, an aqueous solution obtained by dissolving 2.5 g (0.015 mol) of potassium iodide and 1.1 g (0.05 mol) of iodine in 12 ml of water was added, and the solution was heated under reflux for 3 hours under a condition that light was blocked. The reaction mixture was poured into ice water, and sodium hydrogen sulfite was then added, followed by extraction with ethyl acetate. The resulting organic layer was washed with a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. Next, the solvent was distilled off under reduced pressure. The resulting residue was purified through silica gel column chromatography to obtain 0.84 g of methyl 4-methanesulfonyl-2-methyl-3-(3-methyl-1,2-isoxazol-5-yl)benzoate. Yield=23%.

reactant | 2-oxopropylidenetri phenylphospholane | 0.012 mol, 3.85 g | O=C(C=C1C(P(CC1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H23OP
reactant | methyl 3-formyl-4-methanesulfonyl-2-methylbenzoate | 0.012 mol, 3.1 g | C(=O)C=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)C | C11H12O5S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl 4-methanesulfonyl-3-(3-oxo-1-butenyl)-2-methylbenzoate | CS(=O)(=O)C1=C(C(=C(C(=O)OC)C=C1)C)C=CC(C)=O | C14H16O5S
